US07851473B2
(2) N-(2-Methyl-1,3-benzoxazol-6-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl (2-methyl-1,3-benzoxazol-6-yl)carbamate (200 mg, 0.618 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (152 mg, 0.618 mmol), diisopropylethylamine (0.215 ml, 1.24 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 24 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product as a solid. The solid was recrystallized from ethyl acetate to give 75.6 mg (29.1%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (2-methyl-1,3-benzoxazol-6-yl)carbamate | 0.618 mmol, 200 mg | CC=1OC2=C(N1)C=CC(=C2)NC(OCC(Cl)(Cl)Cl)=O | C11H9Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.618 mmol, 152 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.24 mmol, 0.215 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(2-Methyl-1,3-benzoxazol-6-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | CC=1OC2=C(N1)C=CC(=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C21H20N6O2S
